US04478838
1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(isopropylaminocarbonyl)ethyl]piperazine Hydrochloride
3 ml of 15% ethanolic hydrogenchloride is added to a solution of 3.00 g of 1-(3,4,5-trimethoxycinnamoyl)-4-[1-(isopropylaminocarbonyl)ethyl]piperazine prepared as in Example 3 in 5 ml of ethanol, and the solvent is distilled off. Isopropanol is added to the abtained residue and the precipitates are collected by filtration.

reactant | hydrogenchloride | 3 ml | Cl | ClH
reactant | 1-(3,4,5-trimethoxycinnamoyl)-4-[1-(isopropylaminocarbonyl)ethyl]piperazine | 3.00 g | COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NC(C)C)C=C(C1OC)OC | C22H33N3O5
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(isopropylaminocarbonyl)ethyl]piperazine Hydrochloride | Cl.COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NC(C)C)C=C(C1OC)OC | InChI=1S/C22H33N3O5.ClH/c1-15(2)23-22(27)16(3)24-9-11-25(12-10-24)20(26)8-7-17-13-18(28-4)21(30-6)19(14-17)29-5;/h7-8,13-16H,9-12H2,1-6H3,(H,23,27);1H
